US06486158B1
C. 1-Benzylthio-4-phenylphthalazine
To a suspension of 4-phenylphthalazine-1-thiol (238 mg; 1 mmol) in ethanol (30 ml), aqueous KOH (1 molar, 1 ml) and N,N-dimethylacetamide (30 ml) are added. After 10 minutes, benzylchloride (126 mg, 1 mmol) is added, and the mixture is stirred at room temperature overnight. The solution is concentrated, and water (20 ml) is added to the residual to give a precipitate. Filtration gives a light yellow solid (R1=phenyl, R2=phenyl, A=benzene, Y1=CH2, m=0, n=1, p=0, q=0).

reactant | 4-phenylphthalazine-1-thiol | 1 mmol, 238 mg | C1(=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)S | C14H10N2S
reactant | benzylchloride | 1 mmol, 126 mg | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | KOH | 1 molar, 1 ml | [OH-].[K+]
solvent | N,N-dimethylacetamide | 30 ml | CN(C(C)=O)C | C4H9NO
product | 1-Benzylthio-4-phenylphthalazine | C(C1=CC=CC=C1)SC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C21H16N2S
